US07981896B2
3,5-Diisopropyl-1-[cis-4-(3-pyrrolidin-1-yl-propoxy)-cyclohexyl]-1H-pyrazole.
Cis-4-(3,5-diisopropyl-pyrazol-1-yl)-cyclohexanol (17.5 mg, 0.068 mmol) was dissolved in dry DMF (2 mL) followed by addition of NaH (excess, 60% in oil) and stirred at room temperature until hydrogen evolution stopped. To the reaction was added 1-(3-Chloro-propyl)-pyrrolidine (20 mg) and catalytic NaI followed by heating to 80° C. overnight. The reaction was cooled, quenched with methanol and concentrated under reduced pressure. The residue was purified by prep HPLC to give the desired product (yield 10.6 mg). LC-MS (C22H39N3O calculated 361) m/z 362 (M+H).

reactant | Cis-4-(3,5-diisopropyl-pyrazol-1-yl)-cyclohexanol | 0.068 mmol, 17.5 mg | C(C)(C)C1=NN(C(=C1)C(C)C)[C@H]1CC[C@H](CC1)O | C15H26N2O
reactant | NaH | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-(3-Chloro-propyl)-pyrrolidine | 20 mg | ClCCCN1CCCC1 | C7H14ClN
reactant | NaI | [Na+].[I-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3,5-Diisopropyl-1-[cis-4-(3-pyrrolidin-1-yl-propoxy)-cyclohexyl]-1H-pyrazole | yield 10.6 mg | C(C)(C)C1=NN(C(=C1)C(C)C)[C@@H]1CC[C@@H](CC1)OCCCN1CCCC1 | C22H39N3O
